US08309580B2
(2) 2,5-dimethylfuran-3-carbaldehyde
To a solution of (2,5-dimethylfuran-3-yl)methanol (3.8 g) obtained by the above-mentioned reaction in methylene chloride (30 mL) was added a Dess-Martin reagent (15.3 g) at 0° C., and the mixture was stirred at 0° C. for 3 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 20% ethyl acetate/hexane) to give the title compound (2.1 g, 56%) as an oil.

reactant | Dess-Martin reagent | 15.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | O | H2O
product | 2,5-dimethylfuran-3-carbaldehyde | 2.1 g, 56% | CC=1OC(=CC1C=O)C | C7H8O2
